US06159990
a. Benzhydrylindene-(3,4-difluoro-benzyl)-amine
To a solution of 3,4-difluorobenzylamine (9.8 g, 69 mmol) and benzophenone (13.0 g, 71.0 mmol) in toluene (200 mL) was added a catalytic amount of BF3.OEt2 and the resulting solution was stirred at reflux for 12 h. The reaction mixture was concentrated in vacuo, yielding an oil (21 g, >95%), which was characterized by NMR analysis and subjected to the following reaction without any further purification.

reactant | 3,4-difluorobenzylamine | 69 mmol, 9.8 g | FC=1C=C(CN)C=CC1F | C7H7F2N
reactant | benzophenone | 71.0 mmol, 13.0 g | C(C1=CC=CC=C1)(=O)C1=CC=CC=C1 | C13H10O
reactant | BF3.OEt2 | B(F)(F)F.CCOCC
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
product | Benzhydrylindene (3,4-difluoro-benzyl)-amine | 21 g, >95% | C(C1=CC=CC=C1)(C1=CC=CC=C1)C1C=CC2=CC=CC=C12.FC=1C=C(CN)C=CC1F | InChI=1S/C22H18.C7H7F2N/c1-3-10-18(11-4-1)22(19-12-5-2-6-13-19)21-16-15-17-9-7-8-14-20(17)21;8-6-2-1-5(4-10)3-7(6)9/h1-16,21-22H;1-3H,4,10H2
